Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Lipitor / Enviromental
 
Attending: ___.
 
Chief Complaint:
hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female sent in from clinic with chief complaint of 
dyspnea and hypoxia for the past 6 months. DOE for about 6 
months then found to have O2 sats in the low ___ with ambulation 
while at ___ yesterday. No localizing sxs - no CP, palpitations, 
lightheadedness, ___ edema, orthopnea, cough. No fevers, sweats, 
chills. No black/bloody stools. Energy level has been normal. No 
personal or second hand smoking history. Stress TTE in ___ was 
nml and CXR ___ nml. No h/o PFTs. Lives at home alone, 
independent in ADLs/iADLs, husband passed away recently in 
___. Reports that she is normally able to do the 3 flights 
of stairs in her house with only mild SOB at the end; this 
hasn't changed recently. She does report needing to stop halfway 
up the hill to her house due to SOB, but never has associated CP 
or tightness. Given concern for PE, she was referred to ER for 
expedited work-up of hypoxia.  
 In the ED, initial vital signs were: 97.4 80 137/78 20 97% RA. 
Labs were notable for CBC WNL, Lytes WNL, BUN/Cr normal, D-dimer 
610, proBNP 48, UA w/ 10 WBCs, few bacteria, Lactate 1.0, Trop 
<0.01. EKG without evidence of ischemia, CXR showed large hiatal 
hernia with adjacent opacity concerning for infection vs. 
atelectasis. CTA showed no PE but showed an intrathoracic 
stomach with adjacent compressive atelectasis. Vitals prior to 
transfer were: 98.0 90 135/74 20 95% RA. In the ED, there was 
one O2 sat of 85% RA documented that resolved without 
intervention.  
 Upon arrival to the floor, she reports feeling well and has no 
complaints. She adds that she has not had reflux symptoms 
recently (had a Schatzky's ring dilated several years ago 
without symptoms since), no recent fever/chills, no cough, she 
has not been told she snores, she has restorative sleep, and she 
has working carbon monoxide detectors at home. She has no 
occupational exposures to asbestos or silica.  
 REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, hematochezia, 
dysuria, rash, paresthesias, and weakness.  

 
Past Medical History:
-migraines  
-borderline hypertension  
-exertional dyspnea  
-HLD  
-GERD  
-chronic low back pain  

 
Social History:
___
Family History:
Mother: AAA.
Father: MI/CAD 
 
Physical Exam:
ADMISSION:
VITALS: 64.2 kg 98.1 125/59 84 16 95% RA  
GENERAL: NAD, breathing comfortably.  
HEENT: No head or neck lymphadenopathy. Sclerae are anicteric. 
No conjunctival pallor. Oropharynx is clear without erythema or 
exudate.  
NECK: JVD not appreciated.  
HEART: Regular rate and rhythm. No murmurs. Physiologically 
split S2 with P2 of normal intensity. No thrill.  
LUNGS: Coarse crackles at the R lung base. No wheezes  
ABDOMEN: Soft, nontender, normoactive bowel sounds.  
EXTREMITIES: Warm and well perfused, no edema.  

DISCHARGE: 
VITALS: 98.1 123/61 93 18 96RA (87-88% on RA with exertion)
GENERAL: NAD, breathing comfortably.  
HEENT: No head or neck lymphadenopathy. Sclerae are anicteric. 
No conjunctival pallor. Oropharynx is clear without erythema or 
exudate.  
NECK: JVD not appreciated.  
HEART: Regular rate and rhythm. No murmurs. Physiologically 
split S2 with P2 of normal intensity. No thrill.  
LUNGS: Coarse crackles at the R lung base. No wheezes  
ABDOMEN: Soft, nontender, normoactive bowel sounds.  
EXTREMITIES: Warm and well perfused, no edema.  
 
Pertinent Results:
ADMISSION LABs:

___ 02:12PM BLOOD WBC-6.3 RBC-4.67 Hgb-13.6 Hct-41.8 MCV-90 
MCH-29.1 MCHC-32.5 RDW-14.0 RDWSD-45.3 Plt ___
___ 02:12PM BLOOD Neuts-54.9 ___ Monos-9.6 Eos-2.8 
Baso-0.3 Im ___ AbsNeut-3.47 AbsLymp-2.02 AbsMono-0.61 
AbsEos-0.18 AbsBaso-0.02
___ 02:12PM BLOOD Glucose-88 UreaN-20 Creat-0.7 Na-137 
K-5.0 Cl-100 HCO3-28 AnGap-14
___ 02:12PM BLOOD proBNP-48
___ 02:12PM BLOOD cTropnT-<0.01
___ 02:12PM BLOOD D-Dimer-610*
___ 02:26PM BLOOD Lactate-1.0

DISCHARGE LABS:
___ 07:29AM BLOOD Glucose-90 UreaN-18 Creat-0.7 Na-138 
K-4.2 Cl-99 HCO3-31 AnGap-12
___ 07:29AM BLOOD Calcium-10.4* Phos-3.6 Mg-2.1

STUDIES: 
CXR ___:  
IMPRESSION:  
1. Moderate to large hiatal hernia and adjacent pulmonary 
opacity which may reflect compressive atelectasis or infection.  

2. Persistently elevated right hemidiaphragm. No pneumothorax.  

EKG: ___: LVH with secondary repolarization abnormality  

CTA Chest ___:  
IMPRESSION:  
1. No evidence of pulmonary embolism or aortic abnormality.  
2. Elevation of the right hemidiaphragm and large hiatal hernia 
with  
intrathoracic stomach and associated bibasilar atelectasis.  
 
Brief Hospital Course:
Ms. ___ is an ___ w/ PMH of HLD, HTN, GERD, and DOE for the 
past 6 months who was sent in to the ED from clinic after she 
was found to be hypoxemic to mid ___ on room air while 
ambulating.

#HYPOXIA: Uncertain etiology. Initial workup with a large hiatal 
hernia / intrathoracic stomach and bilateral compressive 
atelectasis. CTPA was negative for pulmonary embolus/pneumonia. 
Troponins x2 were negative. She was seen by thoracic surgery who 
gave her contact information re:surgery if she desires. There is 
a question if the compressive atelectasis is contributing to her 
hypoxia with exertion. On day of discharge, she was 96% on room 
air at rest. O2 saturation decreased to 87-88% with ambulation, 
but quickly increased to normal after rest. She was recommended 
transthoracic echocardiogram with bubble study and home oxygen, 
however, as it was the holiday weekend and these could no be 
obtained until ___, she opted to go home. She was counseled 
to avoid strenuous exercise and to rest when she feels 
lightheaded. She expressed understanding. 

Note, it is unclear if her compressive atelectasis is the main 
contributor. She may have pulmonary HTN or pulmonary vs 
intracardiac shunt as well. 

TRANSITIONAL ISSUES:
-TTE WITH BUBBLE STUDY ORDERED IN OMR
-Pt needs home O2 with ambulation; please arrange
-Pt has thoracic surgery contact information regarding surgery. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ezetimibe 10 mg PO DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Ezetimibe 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypoxia on ambulation
Hiatal hernia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted for very low oxygen 
levels after walking. You had several studies performed. 
Fortunately, there was no evidence of pneumonia or blood clot 
that could be contributing to your low oxygen levels. Studies 
did show that you have a hiatal hernia, that may or may not be 
contributing to your lower oxygen levels by compressing part of 
your lungs. It most certainly is contributing to your heartburn. 


At rest, you do not need oxygen. However, when you walk, your 
oxygen levels become low. We were unable to arrange for home 
oxygen over the holiday weekend. Although we recommended home 
oxygen, you declined waiting in the hospital for this. We 
recommend that you limit your physical activity and rest when 
you feel short of breath or lightheaded. Please call your 
primary care doctor ___ to be seen and arrange for home oxygen. 


You will also require a test called an echocardiogram. This is 
to evaluate for cardiac causes of low oxygen levels. Your 
primary care doctor should also arrange for this test to be 
performed. 

Lastly, the thoracic surgeons saw you and left their contact 
information in case you would like to arrange for surgery to fix 
your hernia. 

We wish you all the best,
Your ___ team
 
Followup Instructions:
___